US07713993B2
Hydrazine (340 mg) was added to a solution of ethyl 5-chloro-2-cyano-2-(4-fluorophenyl)pentanoate (300 mg) in ethanol (3 mL), and the reaction solution was stirred at room temperature for 40 minutes. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was filtered through a silica gel, and the filtrate was concentrated under reduced pressure to obtain a crude product of 5-chloro-2-cyano-2-(4-fluorophenyl)pentanoic acid hydrazide.

reactant | Hydrazine | 340 mg | NN | H4N2
reactant | ethyl 5-chloro-2-cyano-2-(4-fluorophenyl)pentanoate | 300 mg | ClCCCC(C(=O)OCC)(C1=CC=C(C=C1)F)C#N | C14H15ClFNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 5-chloro-2-cyano-2-(4-fluorophenyl)pentanoic acid hydrazide | ClCCCC(C(=O)NN)(C1=CC=C(C=C1)F)C#N | C12H13ClFN3O
